US09315521B2
2-({[2-chloro-1-(propan-2-yl)-1H-imidazol-5-yl]methyl}sulfanyl)-6-methylpyrimidin-4-ol
In a 250 mL round bottom flask, 6-methyl-2-({[1-(propan-2-yl)-1H-imidazol-5-yl]methyl}sulfanyl)pyrimidin-4-ol (260 mg, 1.0 mmol) was dissolved in THF (20 mL) at −78° C. BuLi (0.88 mL, 2.2 mmol) was added dropwise. After 1 hour, hexachloroethane (360 mg, 1.5 mmol) was added. The resulting mixture was stirred at 0° C. for 2 hours. A few drops of methanol were added to quench the reaction. Then, the solvent as removed under vacuum, and the crude was purified by column chromatography to provide the title compound as a white solid (200 mg, 87% yield); 1H NMR (400 MHz, CD3OD): δ 1.45 (d, 6H), 2.20 (s, 3H), 4.46 (s, 2H), 4.62 (m, 1H), 6.02 (bs, 1H), 6.84 (s, 1H); M+299.

reactant | 6-methyl-2-({[1-(propan-2-yl)-1H-imidazol-5-yl]methyl}sulfanyl)pyrimidin-4-ol | 1.0 mmol, 260 mg | CC1=CC(=NC(=N1)SCC1=CN=CN1C(C)C)O | C12H16N4OS
reactant | BuLi | 2.2 mmol, 0.88 mL | [Li]CCCC
reactant | hexachloroethane | 1.5 mmol, 360 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | methanol | A few drops | CO | CH4O
product | 2-({[2-chloro-1-(propan-2-yl)-1H-imidazol-5-yl]methyl}sulfanyl)-6-methylpyrimidin-4-ol | 200 mg, 87% yield | ClC=1N(C(=CN1)CSC1=NC(=CC(=N1)O)C)C(C)C | C12H15ClN4OS
